US08134001B2
Preparation of intermediate 1-[5-bromo-2-(3-methyl-oxetan-3-ylmethoxy)phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene
To a mixture of 5-bromo-2-(3-methyl-oxetan-3-ylmethoxy)-benzaldehyde (4.5 g, 16 mmol) in THF (80 mL) at 0° C. was added a solution of lithium bis(trimethylsilyl)amide in THF (1 M, 16 mL, 16 mmol). The mixture was stirred at same temperature for 1 h under argon. Then trimethylsilyl chloride (2 mL, 16 mmol) (Aldrich) was added dropwise, followed by addition of triethylamine (2.87 mL, 20.9 mmol) in one portion and a solution of acetyl chloride (1.46 mL, 20.9 mmol) in diethyl ether (80 mL) dropwise. The cooling bath was removed, and the mixture was stirred at room temperature for 1 h. The mixture was quickly filtered on celite under nitrogen, and filtrate was concentrated under reduced pressure. The residue was dissolved in toluene (16 mL) to give a solution (1 M) of the title compound.

reactant | 5-bromo-2-(3-methyl-oxetan-3-ylmethoxy)-benzaldehyde | 16 mmol, 4.5 g | BrC=1C=CC(=C(C=O)C1)OCC1(COC1)C | C12H13BrO3
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | trimethylsilyl chloride | 16 mmol, 2 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 20.9 mmol, 2.87 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 20.9 mmol, 1.46 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
solvent | THF | 16 mmol, 1 M, 16 mL | C1CCOC1 | C4H8O
product | 1-[5-bromo-2-(3-methyl-oxetan-3-ylmethoxy)phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OCC1(COC1)C | C17H24BrNO3Si
